US08003785B2
A mixture of 1.0 g (3.15 mmole) of 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-20), 0.572 g (3.78 mmole) of 4-amino-3-methylbenzoic acid, 10 mL of ethanol and 40 mL of 1M hydrochloric acid was heated at reflux for 14 hours. The mixture was cooled and the white precipitate was collected by filtratration, washed with cold water and dried in vacuum to give 0.3251 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methyl-benzoic acid (I-184) as off-white solid.

reactant | 2-chloro-9-cyclopentyl-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 3.15 mmole, 1.0 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1 | C13H15ClF2N4O
reactant | 4-amino-3-methylbenzoic acid | 3.78 mmole, 0.572 g | NC1=C(C=C(C(=O)O)C=C1)C | C8H9NO2
reactant | hydrochloric acid | 1M, 40 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methyl-benzoic acid | 0.3251 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)C | C21H23F2N5O3
